US04833270
2-Chloro-α-[(cyclopropylamino)methylene]-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester
A 3.9 ml portion of cyclopropylamine was added dropwise to a solution of 16.25 g of 2-chloro-α-(ethoxymethylene)-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester in 45 ml of ethanol, producing an exotherm. The solution was stirred for 1 hour, evaporated to dryness and the residue crystallized from hexane, giving 14.6 g of the desired compound, mp 55°-58° C.

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 2-chloro-α-(ethoxymethylene)-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 16.25 g | ClC1=C(C=C(C(=C1)F)F)C(C(C(=O)OCC)=COCC)=O | C14H13ClF2O4
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 2-Chloro-α-[(cyclopropylamino)methylene]-4,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 14.6 g | ClC1=C(C=C(C(=C1)F)F)C(C(C(=O)OCC)=CNC1CC1)=O | C15H14ClF2NO3
